US04217306
A mixture of 99 parts of 1-bromo-2-(bromomethyl)naphthalene, 103 parts of potassium cyanide and 1 part of benzyl triethylammonium chloride in 150 parts by volume of methylene chloride and 30 parts by volume of water is stirred at room temperature for about 72 hours. The mixture is then diluted with additional quantities of methylene chloride and water, the organic layer separated, dried over calcium sulfate, and concentrated to give α-(1-bromo-2-naphthyl)acetonitrile, as a solid.

reactant | 1-bromo-2-(bromomethyl)naphthalene | BrC1=C(C=CC2=CC=CC=C12)CBr | C11H8Br2
reactant | potassium cyanide | [C-]#N.[K+]
catalyst | benzyl triethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | α-(1-bromo-2-naphthyl)acetonitrile | BrC1=C(C=CC2=CC=CC=C12)CC#N | C12H8BrN
